US04931436
11-[[4-[2-(Diethylamino)ethyl]-1-piperidinyl]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
Prepared analogously to Example 4 from 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 4-[2-(diethylamino)ethyl]piperidine in a yield of 34% of theory. Colourless crystals, m.p. 154° C. (ethyl acetate).

reactant | 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 4-[2-(diethylamino)ethyl]piperidine | C(C)N(CCC1CCNCC1)CC | C11H24N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 11-[[4-[2-(Diethylamino)ethyl]-1-piperidinyl]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | yield of 34% | C(C)N(CCC1CCN(CC1)C(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2)CC | C24H31N5O2
